US09085555B2
E. (2R,5S)-2-Methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,5R)-5-hydroxymethyl-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (390 mg, 0.97 mmol) in CH2Cl2 (3.5 mL) was added at 0° C. under nitrogen atmosphere Et3N (296 μl, 2.12 mmol) and mesylchloride (167 μl, 2.12 mmol) and the mixture was further stirred at RT for 3 h. CH2Cl2 and HCl 0.1N were added, the layers were separated and the aqueous one re-extracted with CH2Cl2. The crude organic extracts were washed with brine dried over Na2SO4, filtered and concentrated. The crude material was used without purification in the next step. MS (LC-MS): 383 [MH−Boc]+; tR (HPLC conditions b) 5.1 min.

reactant | (2S,5R)-5-hydroxymethyl-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.97 mmol, 390 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1CO)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C18H23F3N2O5
reactant | Et3N | 2.12 mmol, 296 μl | CCN(CC)CC | C6H15N
reactant | mesylchloride | 2.12 mmol, 167 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | HCl | 0.1N | Cl | ClH
solvent | CH2Cl2 | 3.5 mL | C(Cl)Cl | CH2Cl2
product | (2R,5S)-2-Methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)COS(=O)(=O)C | C19H25F3N2O7S
